US07576115B2
1) Synthesis of 1-[4-hydroxy-1-methyl-5-(3-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone
2-Oxopropanal methylhydrazone (7.49 mmol, 750 mg) and (oxo)[3-trifluoromethylphenyl]acetaldehyde (7.0 mmol, 1.42 g) synthesized in Reference Synthetic Example 8 were dissolved in acetic acid (20 mL) and stirred at 100° C. for 4 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump and purified by silica gel column chromatography (n-hexane/ethyl acetate=2/1) and then by silica gel thin layer chromatography (chloroform/methanol=30/1) to give the desired product as a reddish yellow liquid (221 mg, yield 11%).

reactant | 2-Oxopropanal methylhydrazone | 7.49 mmol, 750 mg | CNN=CC(C)=O | C4H8N2O
reactant | (oxo)[3-trifluoromethylphenyl]acetaldehyde | 7.0 mmol, 1.42 g | O=C(C=O)C1=CC(=CC=C1)C(F)(F)F | C9H5F3O2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 1-[4-hydroxy-1-methyl-5-(3-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone | 221 mg, yield 11% | OC=1C(=NN(C1C1=CC(=CC=C1)C(F)(F)F)C)C(C)=O | C13H11F3N2O2
